US09145415B2
To a solution of 4-pentynal (631 mg) synthesized according to the method described in U.S. Pat. No. 4,877,779 A1 and tert-butyl (2-amino-2-methylpropyl)carbamate (328 mg) in methylene chloride (10 mL), sodium triacetoxyborohydride (921 mg) and acetic acid (99 μL) were added at room temperature, and the mixture was stirred at the same temperature for 2 hours. To the reaction mixture, ethyl acetate and saturated aqueous sodium hydrogencarbonate were added. The organic layer was separated, washed with saturated aqueous sodium chloride, and then dried over anhydrous sodium sulfate, and the solvent was evaporated under reduced pressure. The obtained residue was purified by silica gel column chromatography (eluent, 100 to 80% ethyl acetate in methanol) to obtain tert-butyl (2-methyl-2-((4-pentyn-1-yl)amino)propyl)carbamate (G7, 172 mg).

reactant | 4-pentynal | 631 mg | C(CCC#C)=O | C5H6O
reactant | tert-butyl (2-amino-2-methylpropyl)carbamate | 328 mg | NC(CNC(OC(C)(C)C)=O)(C)C | C9H20N2O2
reactant | sodium triacetoxyborohydride | 921 mg | C(C)(=O)O[BH-](OC(C)=O)OC(C)=O.[Na+]
reactant | sodium hydrogencarbonate | C(O)([O-])=O.[Na+]
solvent | methylene chloride | 10 mL | C(Cl)Cl | CH2Cl2
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
solvent | acetic acid | 99 μL | C(C)(=O)O | C2H4O2
product | tert-butyl (2-methyl-2-((4-pentyn-1-yl)amino)propyl)carbamate | CC(CNC(OC(C)(C)C)=O)(C)NCCCC#C | C14H26N2O2
